US06265446B1
A solution of 0.46 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-2′-(1,3-dioxo-2-phthalimidoethansulphonyl)-4-methylvalerohydrazide in 10 ml of ethanol was treated with 4.5 ml of hydrazine hydrate and stirred at room temperature for 2 hours. Evaporation gave a residue which was triturated with ethyl acetate and filtered. The filtrate was washed with water and saturated aqueous sodium chloride and then dried over anhydrous magnesium sulphate. The residue was purified by column chromatography on silica gel using methanol/dichloromethane (5:95) for the elution to give 0.26 g of (E)-2′-(2-aminoethanesulphonyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide in the form of a pale yellow gum.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-2′-(1,3-dioxo-2-phthalimidoethansulphonyl)-4-methylvalerohydrazide | 0.46 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(S(=O)(=O)C(CN1C(C=2C(C1=O)C(C=CC2)=O)=O)=O)CC(C)C)CC(C)C | C36H46N4O10S
reactant | hydrazine hydrate | 4.5 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (E)-2′-(2-aminoethanesulphonyl)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.26 g | NCCS(=O)(=O)N(NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(NOC1OCCCC1)=O)=O)CC(C)C | C28H46N4O6S
